US06528657B2
(2) Synthesis of N-(4-methoxyphenyl)-3-(1,2-dicyano-2-(3,5-difluorophenyl)ethenyl)carbazole
0.50 g (1.15 mmol) of N-(4-methoxyphenyl)-3-(2-cyano-2-(3,5-difluorophenyl)ethenyl) carbazole and 5 ml of N,N-dimethylformamide as solvent were placed in a 200 ml four-necked flask with a mechanical stirrer and bulb-shaped cooler. To this was added an aqueous solution prepared from 0.06 g (1.15 mmol) of sodium cyanide and 0.5 ml of water, which was stirred for 10 minutes. Further, 0.51 g (1.15 mmol) of lead tetraacetate was added. The resultant product was subjected to the reaction for 30 minutes. After the reaction was completed, 20 ml of chloroform was added. To the resultant solution was added 20 ml of water. The resultant liquid was washed in a separatory funnel. To the washed liquid was added sodium sulfate, which was left to stand for 30 minutes and dehydrated. The dehydrated solution was concentrated in an evaporator and dried under vacuum to obtain a vermilion solid. The vermilion solid was recrystallized in the presence of ethanol to obtain 0.10 g of a vermilion crystal. The yield of the synthesized orange crystal was 19%, and its melting point was 140-142° C. The IR chart is shown in FIG. 23.

reactant | N-(4-methoxyphenyl)-3-(2-cyano-2-(3,5-difluorophenyl)ethenyl) carbazole | 1.15 mmol, 0.50 g | COC1=CC=C(C=C1)N1C2=CC=CC=C2C=2C=C(C=CC12)C=C(C1=CC(=CC(=C1)F)F)C#N | C28H18F2N2O
reactant | sodium cyanide | 1.15 mmol, 0.06 g | [C-]#N.[Na+]
reactant | lead tetraacetate | 1.15 mmol, 0.51 g | C(C)(=O)[O-].C(C)(=O)[O-].C(C)(=O)[O-].C(C)(=O)[O-].[Pb+4]
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | water | 20 ml | O | H2O
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
solvent | water | 0.5 ml | O | H2O
product | N-(4-methoxyphenyl)-3-(1,2-dicyano-2-(3,5-difluorophenyl)ethenyl)carbazole | COC1=CC=C(C=C1)N1C2=CC=CC=C2C=2C=C(C=CC12)C(=C(C1=CC(=CC(=C1)F)F)C#N)C#N | C29H17F2N3O
